US09447030B2
To a solution of tert-butyl (2-amino-4-(thiophen-2-yl)phenyl)carbamate (0.20 g, 0.69 mmol, 1.0 equiv.) in dichloromethane (4 mL) was added ethyl chloroformate (0.08 mL, 0.83 mmol, 1.2 equiv.), TEA (0.19 mL, 1.37 mmol, 2.0 equiv.) and DMAP (8 mg, 0.07 mmol, 0.1 equiv.) at 0° C. The reaction was warmed to room temperature and stirred for 16 h. The reaction was then diluted with dichloromethane and water. The organic layer was separated, washed with water and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude material was purified on column chromatography (silica gel, 20% EtOAc/hexanes) to give tert-butyl ethyl (4-(thiophen-2-yl)-1,2-phenylene)dicarbamate (0.11 g, 44% yield).

reactant | tert-butyl (2-amino-4-(thiophen-2-yl)phenyl)carbamate | 0.69 mmol, 0.20 g, 1.0 equiv. | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | ethyl chloroformate | 0.83 mmol, 0.08 mL, 1.2 equiv. | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.07 mmol, 8 mg, 0.1 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | tert-butyl ethyl (4-(thiophen-2-yl)-1,2-phenylene)dicarbamate | 0.11 g, 44% yield | S1C(=CC=C1)C1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC(OCC)=O | C18H22N2O4S
